US05641785
6.5. Ethyl (±)-6-methoxy-2-methoxycarbonyl-1,2,3,4-tetrahydroquinoline-1-carboxylate
To a solution of 69.3 g (0,313 mol) of (±)-6-methoxy-2-methoxycarbonyl-1,2,3,4-tetrahydroquinoline and 39 ml (0.407 mol) of ethyl chloroformate in 1400 ml of dichloromethane are added 85 g (0.63 mol) of potassium carbonate, and the mixture is heated at reflux for 18 h. The mixture is filtered, the filtrate is concentrated under reduced pressure and the residue is chromatographed on a column of silica, with a 3/7 mixture of ethyl acetate and cyclohexane. 80.4 g of product are obtained in the form of an oil.

reactant | (±)-6-methoxy-2-methoxycarbonyl-1,2,3,4-tetrahydroquinoline | 0,313 mol, 69.3 g | COC=1C=C2CCC(NC2=CC1)C(=O)OC | C12H15NO3
reactant | ethyl chloroformate | 0.407 mol, 39 ml | ClC(=O)OCC | C3H5ClO2
reactant | potassium carbonate | 0.63 mol, 85 g | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 1400 ml | ClCCl | CH2Cl2
product | Ethyl (±)-6-methoxy-2-methoxycarbonyl-1,2,3,4-tetrahydroquinoline-1-carboxylate | 80.4 g | COC=1C=C2CCC(N(C2=CC1)C(=O)OCC)C(=O)OC | C15H19NO5
